US04544497
Step B3: The preparation of 1-n-butoxy-4-n-propylbicyclo(2,2,2)octane
A mixture of 4-n-butoxy-1-n-propylbicyclo(2,2,2)octane-2-one (2.08 g, 0.009 mol) hydrazine hydrate (8.4 ml, 98-100%) and potassium hydroxide (2.80 g, 0.050 mol) in diethylene glycol (40 mol) was stirred and heated under reflux for 4 h (180° C., oil bath temperature). The reaction mixture was cooled and hydrazine hydrate (4 ml) and potassium hydroxide (1.00 g) were added and the apparatus was arranged for distillation. The temperature was raised slowly to 240° C. in 2 h, and the reaction mixture was kept at this temperature for 2 h. The reaction mixture was cooled and the residue and the distillate were separately diluted with water, washed with ether (3×50 ml). All the ether washings were combined and washed with water (2×50 ml) dilute hydrochloric acid (2×50 ml) and water (2×50 ml). The ether solution was dried (MgSO4) and ether was removed to give a residue which was chromatographed on a neutral alumina column (1.5×30 cm) using light petroleum (bp 40°-60° C.) as eluent. Four fractions were collected (20 ml each) the solvent was removed to leave a residue which was distilled in a short-path distillation apparatus under reduced pressure to give the required compound.

reactant | 4-n-butoxy-1-n-propylbicyclo(2,2,2)octane-2-one | 0.009 mol, 8.4 ml, 2.08 g | C(CCC)OC12CC(C(CC1)(CC2)CCC)=O | C15H26O2
reactant | potassium hydroxide | 0.050 mol, 2.80 g | [OH-].[K+]
reactant | diethylene glycol | 40 mol | C(COCCO)O | C4H10O3
reactant | hydrazine hydrate | 4 ml | O.NN
reactant | potassium hydroxide | 1.00 g | [OH-].[K+]
product | 1-n-butoxy-4-n-propylbicyclo(2,2,2)octane | C(CCC)OC12CCC(CC1)(CC2)CCC | C15H28O
